US06380387B1
A mixture of 4-nitro-3-methylbenzyl alcohol (56.53 mmol, 9.45 g), di-tert-butyl dicarbonate (63 mmol, 13.74 g) and palladium on charcoal (450 mg) in ethyl acetate (240 mL) was hydrogenated for 2 h at room temperature. Then, the reaction mixture was filtered through a pad of celite washing with ethyl acetate (50 mL). The filtrate was concentrated under vacuum to obtain 10.18 g (76% yield) of 4-[(1,1-dimethylethoxy)carbonyl]amino-3-methylbenzyl alcohol as a light yellow solid. EI-HRMS m/e calcd for C13H19NO3 (M+) 237.0126, found 237.0129.

reactant | 4-nitro-3-methylbenzyl alcohol | 56.53 mmol, 9.45 g | [N+](=O)([O-])C1=C(C=C(CO)C=C1)C | C8H9NO3
reactant | di-tert-butyl dicarbonate | 63 mmol, 13.74 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on charcoal | 450 mg | [Pd] | Pd
solvent | ethyl acetate | 240 mL | C(C)(=O)OCC | C4H8O2
product | 4-[(1,1-dimethylethoxy)carbonyl]amino-3-methylbenzyl alcohol | 10.18 g, 76% yield | CC(C)(OC(=O)NC1=C(C=C(CO)C=C1)C)C | C13H19NO3
